US05198427
Abrusoside A [30 mg] is hydrolyzed by treatment with 1 N HCl (8 ml) for 4 hr at 100° C., to produce an aglycone, abrusogenin [21 mg], which is recrystallized from MeOH as colorless, needle-shaped crystals, and is shown to be homogeneous by tlc in solvent 2 (Rf 0.35), cyclohexaneEtOAc-CHCl3 -MeOH (6:4:2:3, solvent 5, Rf 0.49), and CHCl3 -MeOH (10:1, solvent 6, Rf 0.23). The H2O layer containing the saccharide portion of abrusoside A is neutralized with silver carbonate, with the filtrate subjected to gc/ms and tlc, and found to contain only D-glucose. Abrusogenin exhibited the following data: mp 278°-280°; [α]D +37° (c 0.1 CHCl3 -MeOH, 1:1), uv, (EtOH) end absorption; ir, vmax (KBr) 3430 (OH), 1707 (C=O), 1384, 1259, 1147, 1046 cm-1 ; 1H nmr, (360 MHz, CDCl3 +CD3OD) δ6.63 (1H, m, H-24), 4.50 (1H, dd, J=13.2 Hz, J=2.8 Hz, H-22), 4.09 (1H, dd, J=11.1 Hz, J=4.3 Hz, H-3), 2.58 (1H, m, H-23a), 1.91 (3H, br. s, 27-Me), 1.13 (3H, s, 30Me), 1.00 (3H, d, J=6.7 Hz, 21-Me), 0.97 (3H, s, 18-Me), 0.93 (3H, s, 28-Me), 0.61, 0.39 (2H, d, J=4.0 Hz, 19-H2) ppm; 13C nmr, (90.8 MHz, CDCl3) δ 180.19 (s, C-29), 167.13 (s, C-26), 140.29 (d, C-24), 127.96 (s, C-25), 80.51 (d, C-22), 75.22 (d, C-3), 54.57 (s, C-4), 48.87 (s, C-14), 47.92 (d, C-8), 47.54 (d, C-17), 45.24 (s, C-13), 44.10 (d, C-5), 40.02 (d, C-20), 35.44 (t, C-12), 32.68 (t, C-15), 31.58 (t, C-1), 29.92 (t, C-19), 29.21 (t, C-2), 27.86 (t, C-23), 27.58 (t, C-7), 26.37 (t, C-11), 25.60 (t, C-16), 25.09 (s, C-10), 23.00 (t, C-6), 19.95 (s, C-9), 19.37 (q, C-28), 17.89 (q, C-18), 17.07 (q, C-27), 12.85 (q, C-21), 9.18 (q, C-30) ppm; ei-ms, (70 eV) m/z 484 (M+, 10%), 469 (M+ -Me, 16), 466 (M+ -H2O, 19), 448 (17), 423 (11), 385 (19), 367 (11), 344 (10), 314 (81), 299 (18), 233 (28), 215 (22), 203 (15), 187 (28), 173 (38), 161 (44), 147 (52), 119 (59), 111 (58), 107 (81), 95 (100) 93 (67), 91 (38), 81 (50), 79 (32) 69 (24), 67 (25), 55 (80); hr-ms, mass measurement, found, 484.3189, (calcd. for C30H44O5, 484.3186); 367.2630, (C25H35O2, 367.2635); 314.2245, (C21H30O2, 314.224); 181.1223 , (C11H17O2, 181.1227); 167.1072, (C10H15O2, 167.1071); 139.0764, (C8H11O3, 139.0768); 111.0445, (C6H7O2, 111.0445);95.0131, (C5H3O2, 95.0133).

reactant | Abrusoside A | 30 mg | CC1=CC[C@H](OC1=O)[C@@H](C)[C@H]2CC[C@@]3([C@@]2(CC[C@]45[C@H]3CC[C@@H]6[C@]4(C5)CC[C@@H]([C@@]6(C)C(=O)O)O[C@H]7[C@@H]([C@H]([C@@H]([C@H](O7)CO)O)O)O)C)C | C36H54O10
reactant | HCl | 1 N, 8 ml | Cl | ClH
product | abrusogenin | 21 mg | CC1=CC[C@H](OC1=O)[C@@H](C)[C@H]2CC[C@@]3([C@@]2(CC[C@]45[C@H]3CC[C@@H]6[C@]4(C5)CC[C@@H]([C@@]6(C)C(=O)O)O)C)C | C30H44O5
